US05633281
A refluxing solution of 3,5-dimethylanisole (13 g), azoisobutyronitrile (1.6 g) and N-bromosuccinimide (17 g) in carbon tetrachloride (100 ml) was irradiated with light for 6 h. The solution was filtered and the solvent removed in vacuo. The residue was purified by chromatography on silica gel (eluting with 0-5% ethyl acetate--petroleum ether bp=60°-80° C.) to yield 3-bromomethyl-5-methylanisole.

reactant | 3,5-dimethylanisole | 13 g | CC=1C=C(C=C(C1)C)OC | C9H12O
reactant | N-bromosuccinimide | 17 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-bromomethyl-5-methylanisole | BrCC=1C=C(C=C(C1)C)OC | C9H11BrO
